US04221914
To 200 ml of cold thionyl chloride is added 0.1 mole of 3-isopropylimidazol-5-ylmethanol. After stirring for 1 hour at 25° C. the excess thionyl chloride is evaporated under reduced pressure to give crude 5-chloromethyl-2-isopropylimidazole hydrochloride. To an ice cold solution of 5 mmole of 5-chloromethyl-2-isopropylimidazole hydrochloride in 25 ml of dry dimethylformamide is added a cold solution of powdered sodium cyanide (18 mmole) in 30 ml of dimethylformamide. The mixture is stirred overnight at 25° C. then diluted with 200 ml of water and neutralized with sodium bicarbonate. The solution is saturated with sodium chloride and extracted with ethylacetate (5×50 ml). The organic extracts are washed with water, dried over magnesium sulfate and evaporated under reduced pressure to give a solid residue which is sublimed to give 5-cyanomethyl-2-isopropylimidazole. 5-cyanomethyl-2-isopropylimidazole (10 mmole) is heated with 10 ml of concentrated hydrochloric acid for 12 hours at reflux temperature then concentrated under reduced pressure to give 2-isopropylimidazol-5-ylacetic acid hydrochloride. To an ice cold solution of 0.08 mole of sodium carbonate in 40 ml of water is added 2-isopropylimidazol-5-ylacetic acid hydrochloride followed by 0.025 mole of tosyl chloride dissolved in 30 ml of ethyl acetate. After stirring for 5 hours at 25° C. the reaction mixture is neutralized with hydrochloric acid M and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate and concentrated under reduced pressure to yield 2-isopropyl-1-tosylimidazol-5-ylacetic acid. To a suspension of the sodium salt of 2-isopropyl-1-tosylimidazol-5-ylacetic acid in 100 ml of benzene is added 1 equivalent of oxalyl chloride. The reaction mixture is stirred at 25° C. for 12 hours. The precipitate is filtered off and the filtrate concentrated under reduced pressure to give 2-isopropyl-1-tosylimidazol-5-ylacetyl chloride. To a solution of 29 mmole of diazomethane in 84 ml of ether cooled to 0° C. and magnetically stirred is added dropwise over 45 minutes a solution of 14.3 mmole of 2-isopropyl-1-tosylimidazol-5-ylacetyl chloride in 60 ml of ether. After stirring for 11/2 hours at 25° C. the reaction mixture is added to a solution of hydrogen fluoride/pyridine precooled to 0° C. The resulting heterogeneous solution is stirred at 25° C. for 11/2 hours then poured onto 150 g of ice. The organic phase is separated, washed with sodium bicarbonate (pH of 8) then with brine and dried over magnesium sulfate. Concentration of the mixture under reduced pressure yields 2-isopropyl-1-tosylimidazol-5-ylmethyl fluoromethyl ketone.

reactant | sodium | [Na] | Na
reactant | 2-isopropyl-1-tosylimidazol-5-ylacetic acid | C(C)(C)C=1N(C(=CN1)CC(=O)O)S(=O)(=O)C1=CC=C(C)C=C1 | C15H18N2O4S
reactant | oxalyl chloride | 1 equivalent | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-isopropyl-1-tosylimidazol-5-ylacetyl chloride | C(C)(C)C=1N(C(=CN1)CC(=O)Cl)S(=O)(=O)C1=CC=C(C)C=C1 | C15H17ClN2O3S
